US07704996B2
To a solution of LAH (10 mmol) in THF (50 mL) is added 3-hydroxy-2-phenyl-1-pyrrolidin-1-yl propan-1-one (5 mmol) at 0° C. The reaction mixture is stirred at 0° C. for 1.5 h. After cooled down to 0° C., the reaction is quenched by the addition of Na2SO4-10H2O. The resulting mixture is filtered through celite, and the filtrate is concentrated in vacuo to give 2-phenyl-3-pyrrolidin-1-yl propan-1-ol, which is directly used for the next reaction without further purification.

reactant | LAH | 10 mmol | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | 3-hydroxy-2-phenyl-1-pyrrolidin-1-yl propan-1-one | 5 mmol | OCC(C(=O)N1CCCC1)C1=CC=CC=C1 | C13H17NO2
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | 2-phenyl-3-pyrrolidin-1-yl propan-1-ol | C1(=CC=CC=C1)C(CO)CN1CCCC1 | C13H19NO
